US09278944B2
5-Bromo-6-methoxynicotinic acid and N,O-dimethylhydroxylamine hydrochloride were treated in the similar manner to Reference Example 7(5), and then the resulting compound and methylmagnesium bromide were treated in the similar manner to Reference Example 7(6) to give 1-(5-bromo-6-methoxypyridin-3-yl)ethanone [Ex(296-1)] as a colorless powder.

reactant | 5-Bromo-6-methoxynicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)OC | C7H6BrNO3
reactant | N,O-dimethylhydroxylamine hydrochloride | Cl.CNOC
reactant | methylmagnesium bromide | C[Mg]Br
product | 1-(5-bromo-6-methoxypyridin-3-yl)ethanone | BrC=1C=C(C=NC1OC)C(C)=O | C8H8BrNO2
